US07119221B2
To a mixture of 13-(1-carboxycyclopropyl)-2,2-dimethyl-8-oxotridecanoic acid (3.67 g, 10.8 mmol) in iPrOH (20 mL) and H2O (20 mL) was added NaOH (0.90 g, 22.5 mmol). After 5 min of stirring, NaBH4 (0.20 g, 5.3 mmol) was added to the resulting clear solution. Additional NaBH4 (0.10 g) was added after 100 min of stirring. After 16 h, the mixture was acidified to pH˜1 with aqueous HCl (1M) and extracted with Et2O (3×50 mL). The combined organic phases were washed with brine (2×50 mL), dried (Na2SO4), evaporated in vacuo and coevaporated in vacuo from EtOAc (2×15 mL) to give 13-(1-carboxycyclopropyl)-8-hydroxy-2,2-dimethyltridecanoic acid (3.99 g, 97%, contains 10% (w/w) EtOAc) as a viscous colorless oil. 1H NMR (CD3OD): δ=3.48 (m, 1H), 1.50–1.21 (m, 20H), 1.14 (s, 6H), 1.14–1.12 (m, 2H), 0.70 (dd, J=3.9, 6.3 Hz, 2H). 13C NMR (CD3OD): δ=181.6, 179.0, 72.4, 43.2, 42.0, 38.6, 38.5, 35.2, 31.5, 31.2, 28.9, 26.94, 26.87, 26.3, 25.94, 25.92, 24.4, 13.67, 16.36. HRMS calcd for C19H35O5 (M+H)+: 343.2484, found 343.2487.

reactant | 13-(1-carboxycyclopropyl)-2,2-dimethyl-8-oxotridecanoic acid | 10.8 mmol, 3.67 g | C(=O)(O)C1(CC1)CCCCCC(CCCCCC(C(=O)O)(C)C)=O | C19H32O5
reactant | NaOH | 22.5 mmol, 0.90 g | [OH-].[Na+]
reactant | NaBH4 | 5.3 mmol, 0.20 g | [BH4-].[Na+]
reactant | NaBH4 | 0.10 g | [BH4-].[Na+]
reactant | HCl | 1M | Cl | ClH
solvent | iPrOH | 20 mL | CC(C)O | C3H8O
solvent | H2O | 20 mL | O | H2O
product | 13-(1-carboxycyclopropyl)-8-hydroxy-2,2-dimethyltridecanoic acid | 3.99 g | C(=O)(O)C1(CC1)CCCCCC(CCCCCC(C(=O)O)(C)C)O | C19H34O5
